* CSCD supply-current signature: CMOS sha_slice (56 SG13G2 stdcells) -- tolprobe-nouic2
.hdl "/usr/local/share/xyce/verilog-a/psp103/psp103.va"
.include "/usr/local/src/kestrel/sim/models/sg13g2_psp103_tt.lib"
.include "/usr/local/src/stat-sim/qal/sg13lv_compat.sp"
.include "/usr/local/src/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice"
VDD vdd 0 1.2
VSS vss 0 0
Va_0 a_0 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Va_1 a_1 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Va_2 a_2 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Va_3 a_3 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Va_4 a_4 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Va_5 a_5 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Va_6 a_6 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Va_7 a_7 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vb_0 b_0 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vb_1 b_1 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vb_2 b_2 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vb_3 b_3 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vb_4 b_4 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vb_5 b_5 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vb_6 b_6 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vb_7 b_7 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vc_0 c_0 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vc_1 c_1 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 1.2 7.5n 1.2)
Vc_2 c_2 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vc_3 c_3 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vc_4 c_4 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vc_5 c_5 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vc_6 c_6 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vc_7 c_7 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Ve_0 e_0 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Ve_1 e_1 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Ve_2 e_2 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Ve_3 e_3 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Ve_4 e_4 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Ve_5 e_5 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Ve_6 e_6 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Ve_7 e_7 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vf_0 f_0 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vf_1 f_1 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vf_2 f_2 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vf_3 f_3 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vf_4 f_4 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vf_5 f_5 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vf_6 f_6 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vf_7 f_7 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vg_0 g_0 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vg_1 g_1 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vg_2 g_2 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vg_3 g_3 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vg_4 g_4 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vg_5 g_5 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vg_6 g_6 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
Vg_7 g_7 0 PWL(0 0 2.5n 0 2.55n 0 5n 0 5.05n 0 7.5n 0)
X_32_ _13_ c_1 vdd vss sg13g2_inv_1
X_33_ _14_ c_3 vdd vss sg13g2_inv_1
X_34_ _15_ c_5 vdd vss sg13g2_inv_1
X_35_ _16_ b_0 a_0 vdd vss sg13g2_nand2_1
X_36_ _17_ b_0 a_0 c_0 vdd vss sg13g2_o21ai_1
X_37_ maj_0 _16_ _17_ vdd vss sg13g2_nand2_1
X_38_ _18_ b_1 a_1 vdd vss sg13g2_nor2_1
X_39_ _19_ b_1 a_1 vdd vss sg13g2_nand2_1
X_40_ maj_1 _13_ _18_ _19_ vdd vss sg13g2_o21ai_1
X_41_ _20_ b_2 a_2 vdd vss sg13g2_or2_1
X_42_ _21_ b_2 a_2 vdd vss sg13g2_and2_1
X_43_ maj_2 c_2 _20_ _21_ vdd vss sg13g2_a21o_1
X_44_ _22_ b_3 a_3 vdd vss sg13g2_nor2_1
X_45_ _23_ b_3 a_3 vdd vss sg13g2_nand2_1
X_46_ maj_3 _14_ _22_ _23_ vdd vss sg13g2_o21ai_1
X_47_ _24_ b_4 a_4 vdd vss sg13g2_or2_1
X_48_ _25_ b_4 a_4 vdd vss sg13g2_and2_1
X_49_ maj_4 c_4 _24_ _25_ vdd vss sg13g2_a21o_1
X_50_ _26_ b_5 a_5 vdd vss sg13g2_nor2_1
X_51_ _27_ b_5 a_5 vdd vss sg13g2_nand2_1
X_52_ maj_5 _15_ _26_ _27_ vdd vss sg13g2_o21ai_1
X_53_ _28_ a_6 b_6 vdd vss sg13g2_or2_1
X_54_ _29_ a_6 b_6 vdd vss sg13g2_and2_1
X_55_ maj_6 c_6 _28_ _29_ vdd vss sg13g2_a21o_1
X_56_ _30_ a_7 b_7 vdd vss sg13g2_nor2_1
X_57_ _31_ a_7 b_7 c_7 vdd vss sg13g2_a21oi_1
X_58_ maj_7 _30_ _31_ vdd vss sg13g2_nor2_1
X_59_ ch_0 g_0 f_0 e_0 vdd vss sg13g2_mux2_1
X_60_ ch_1 g_1 f_1 e_1 vdd vss sg13g2_mux2_1
X_61_ ch_2 g_2 f_2 e_2 vdd vss sg13g2_mux2_1
X_62_ ch_3 g_3 f_3 e_3 vdd vss sg13g2_mux2_1
X_63_ ch_4 g_4 f_4 e_4 vdd vss sg13g2_mux2_1
X_64_ ch_5 g_5 f_5 e_5 vdd vss sg13g2_mux2_1
X_65_ ch_6 g_6 f_6 e_6 vdd vss sg13g2_mux2_1
X_66_ ch_7 g_7 f_7 e_7 vdd vss sg13g2_mux2_1
X_67_ _00_ _18_ _19_ vdd vss sg13g2_nor2b_1
X_68_ sum_1 _16_ _00_ vdd vss sg13g2_xnor2_1
X_69_ _01_ _16_ _18_ _19_ vdd vss sg13g2_o21ai_1
X_70_ _02_ b_2 a_2 vdd vss sg13g2_xnor2_1
X_71_ sum_2 _01_ _02_ vdd vss sg13g2_xnor2_1
X_72_ _03_ _20_ _01_ _21_ vdd vss sg13g2_a21oi_1
X_73_ _04_ _22_ _23_ vdd vss sg13g2_nor2b_1
X_74_ sum_3 _03_ _04_ vdd vss sg13g2_xnor2_1
X_75_ _05_ b_4 a_4 vdd vss sg13g2_xnor2_1
X_76_ _06_ _23_ _03_ _22_ vdd vss sg13g2_a21oi_1
X_77_ sum_4 _05_ _06_ vdd vss sg13g2_xnor2_1
X_78_ _07_ _24_ _06_ _25_ vdd vss sg13g2_a21oi_1
X_79_ _08_ _26_ _27_ vdd vss sg13g2_nor2b_1
X_80_ sum_5 _07_ _08_ vdd vss sg13g2_xnor2_1
X_81_ _09_ a_6 b_6 vdd vss sg13g2_xnor2_1
X_82_ _10_ _27_ _07_ _26_ vdd vss sg13g2_a21oi_1
X_83_ sum_6 _09_ _10_ vdd vss sg13g2_xnor2_1
X_84_ _11_ _28_ _10_ _29_ vdd vss sg13g2_a21oi_1
X_85_ _12_ a_7 b_7 vdd vss sg13g2_xor2_1
X_86_ sum_7 _11_ _12_ vdd vss sg13g2_xnor2_1
X_87_ sum_0 b_0 a_0 vdd vss sg13g2_xor2_1
CLmaj_0 maj_0 0 2f
CLmaj_1 maj_1 0 2f
CLmaj_2 maj_2 0 2f
CLmaj_3 maj_3 0 2f
CLmaj_4 maj_4 0 2f
CLmaj_5 maj_5 0 2f
CLmaj_6 maj_6 0 2f
CLmaj_7 maj_7 0 2f
CLch_0 ch_0 0 2f
CLch_1 ch_1 0 2f
CLch_2 ch_2 0 2f
CLch_3 ch_3 0 2f
CLch_4 ch_4 0 2f
CLch_5 ch_5 0 2f
CLch_6 ch_6 0 2f
CLch_7 ch_7 0 2f
CLsum_0 sum_0 0 2f
CLsum_1 sum_1 0 2f
CLsum_2 sum_2 0 2f
CLsum_3 sum_3 0 2f
CLsum_4 sum_4 0 2f
CLsum_5 sum_5 0 2f
CLsum_6 sum_6 0 2f
CLsum_7 sum_7 0 2f
.tran 5p 7.5n
.print tran format=noindex I(VDD) V(maj_0) V(maj_1) V(maj_2) V(maj_3) V(maj_4) V(maj_5) V(maj_6) V(maj_7) V(ch_0) V(ch_1) V(ch_2) V(ch_3) V(ch_4) V(ch_5) V(ch_6) V(ch_7) V(sum_0) V(sum_1) V(sum_2) V(sum_3) V(sum_4) V(sum_5) V(sum_6) V(sum_7)
.options timeint reltol=1e-6 abstol=1e-12 delmax=5e-12
.options nonlin-tran abstol=1e-13 reltol=1e-8
.options output initialinterval=5e-12
.measure tran Q1 INTEG I(VDD) from=2.5n to=5n
.measure tran E1 PARAM {-1.2*Q1}
.measure tran IQ1 AVG I(VDD) from=4.5n to=5n
.measure tran IPK1 MIN I(VDD) from=2.5n to=5n
.measure tran Q2 INTEG I(VDD) from=5n to=7.5n
.measure tran E2 PARAM {-1.2*Q2}
.measure tran IQ2 AVG I(VDD) from=7n to=7.5n
.measure tran IPK2 MIN I(VDD) from=5n to=7.5n
.end
